US07312343B2
((S)-1-Dimethoxymethyl-2-methyl-propyl)-methyl-amine hydrochloride
5.0 g Crude Boc-N-methyl-valinal (23.2 mmol) were dissolved in 40 ml methanol and cooled to ˜15° C. A solution of 3.3 ml (46.4 mmol) acetyl chloride in 10 ml methanol was added all at once and the yellowish solution was stirred at RT for 1 h (gas evolution). 22.2 g Trimethyl orthoformate (209 mmol) were now added and the reaction mixture was stirred at RT over night (18 h). The solvent and the excess of the orthoester were removed by rotary evaporation (40° C./≧10 mbar) and the resulting beige, crystalline residue (4.6 g) was dissolved in ca. 45 ml isopropyl acetate at ˜70° C. After cooling to RT and crystallization at −20° C. for 17 h the crystal suspension was filtered and dried (50° C./10 mbar/16 h) affording 3.2 g (69%) product as greenish needles, [α]D=40.3 (CHCl3; c=1). 1H-NMR:

reactant | Boc-N-methyl-valinal | 23.2 mmol, 5.0 g | C(=O)(OC(C)(C)C)N([C@@H](C(C)C)C=O)C | C11H21NO3
reactant | acetyl chloride | 46.4 mmol, 3.3 ml | C(C)(=O)Cl | C2H3ClO
reactant | Trimethyl orthoformate | 209 mmol, 22.2 g | C(OC)(OC)OC | C4H10O3
solvent | methanol | 40 ml | CO | CH4O
solvent | methanol | 10 ml | CO | CH4O
product | ((S)-1-Dimethoxymethyl-2-methyl-propyl)-methyl-amine hydrochloride | 3.2 g, 69% | Cl.COC([C@H](C(C)C)NC)OC | InChI=1S/C8H19NO2.ClH/c1-6(2)7(9-3)8(10-4)11-5;/h6-9H,1-5H3;1H/t7-;/m0./s1
